US05688815
5.99 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-methylthio-phenyl)-methyl]-1H-pyridin-4-one are boiled under reflux for 45 minutes in 60 ml of 6N hydrochloric acid. The reaction mixture is cooled to room temperature and covered with 10 ml of ethyl acetate. With vigorous stirring, the reaction mixture is neutralised with dilute sodium hydroxide solution until the product precipitates in the form of crystals. The reaction mixture is left to stand overnight in a refrigerator and then filtered. The crystals are washed with a small amount of cold alcohol. Drying yields 9-hydroxy-1-(4-methylthio-phenyl)-3,4-dihydro-1H-pyrido[2,1-c]-[1,4]oxazin-8-one hydrochloride, M.p.: 235°-238° C.

reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-methylthio-phenyl)-methyl]-1H-pyridin-4-one | 5.99 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=C(C=C1)SC)O | C22H23NO4S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 60 ml | Cl | ClH
product | 9-hydroxy-1-(4-methylthio-phenyl)-3,4-dihydro-1H-pyrido[2,1-c]-[1,4]oxazin-8-one hydrochloride | Cl.OC=1C(C=CN2C1C(OCC2)C2=CC=C(C=C2)SC)=O | InChI=1S/C15H15NO3S.ClH/c1-20-11-4-2-10(3-5-11)15-13-14(18)12(17)6-7-16(13)8-9-19-15;/h2-7,15,18H,8-9H2,1H3;1H
